US07211601B2
(2S,4EZ)-N-(1,3-benzodioxol-5-ylmethyl)-4-[(benzyloxy)imino]-1-(4-cyanobenzoyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(benzyl-oxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 4-cyanobenzoyl chloride, and 1,3-benzodioxol-5-ylmethylamine the title compound was obtained in 51% purity by LC/MS. MS(ESI+): m/z=497.6.

reactant | (2S,4EZ)-4-[(benzyl-oxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H22N2O5
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | 1,3-benzodioxol-5-ylmethylamine | O1COC2=C1C=CC(=C2)CN | C8H9NO2
product | (2S,4EZ)-N-(1,3-benzodioxol-5-ylmethyl)-4-[(benzyloxy)imino]-1-(4-cyanobenzoyl)-2-pyrrolidinecarboxamide | O1COC2=C1C=CC(=C2)CNC(=O)[C@H]2N(CC(C2)=NOCC2=CC=CC=C2)C(C2=CC=C(C=C2)C#N)=O | C28H24N4O5
